US07214546B2
To a stirred solution of 100 mg activated ester-terminated dendrimer (e.g., PAMAM-CONHS) in 15 ml CH2Cl2 with 0.1ml triethylamine is added N-(4-aminobutyl)-N-ethylisoluminol (ABEI, 1.01 eq isoluminol per activated ester end group). The reaction is stirred overnight at room temperature, diluted with CH2Cl2 to 75 ml and washed with water (3×30 ml) and saturated Na2CO3 (3×30 ml). The organic layer is dried over Na2SO4and stripped of solvent to yield the dendritic isoluminol conjugate.

reactant | N-(4-aminobutyl)-N-ethylisoluminol | 1.01 eq | CCN(CCCCN)C1=CC2=C(C=C1)C(=O)NNC2=O | C14H20N4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | isoluminol | C1=CC2=C(C=C1N)C(=O)NNC2=O | C8H7N3O2
